US06518277B1
2-(7-Amino-1,2,3-triazolo[4,5-d]pyrimidin-3-ylmethyl)-5-methyl-3-o-tolyl-3H-quinazolin-4-one (D-101)
1H NMR (300 MHz, d6-DMSO) δ: 8.43 (br s, 1H), 8.19 (s, 1H), 8.10 (br s, 1H), 7.62 (t, J=7.8 Hz, 1H), 7.49-7.28 (m, 5H), 7.22 (d, J=8.1 Hz, 1H), 5.49 (d, J=17.0 Hz, 1H), 5.19 (d, J=17.0 Hz, 1H), 2.73 (s, 3H), 2.11 (s, 3H). Alkylation at purine N7 determined by similarity to nmr spectrum of D-030.

reactant | purine | N1=CN=C2N=CNC2=C1 | C5H4N4
reactant | D-030 | CC1=C2C(=CC=C1)N=C(N(C2=O)C3=CC=CC=C3C)CN4C=NC5=C4N=CN=C5N | C22H19N7O
product | 2-(7-Amino-1,2,3-triazolo[4,5-d]pyrimidin-3-ylmethyl)-5-methyl-3-o-tolyl-3H-quinazolin-4-one | NC=1C2=C(N=CN1)N(N=N2)CC2=NC1=CC=CC(=C1C(N2C2=C(C=CC=C2)C)=O)C | C21H18N8O
